Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C:3][C@@:4]1([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[H:8],86.91371796335541
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:4]([O:5][H:14])([H:12])[H:13])[C:6]([O:3][H:11])=[C:7]1[H:15])([H:8])([H:9])[H:10],62.92983362568089
[O:1]=[C:2]1[C@@:3]2([H:9])[C:4]([H:10])([H:11])[N:5]2[C@:6]1([O:7][H:8])[H:12]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],49.16165779501701
[C:1](=[C:2](/[N:3]=[C:4](\[N:5]([H:12])[H:14])[C:6]#[N:7])[H:11])([H:9])[H:10].[H:8][H:13]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],64.61116653808682
[N:1]([C:2]1=[C:3]([H:9])[N+:5]([O-:4])=[N:6]1)([H:7])[H:8]>>[N:1]([c:2]1[c:3]([H:9])[o:4][n:5][n:6]1)([H:7])[H:8],50.005496296459604
[C:1](=[C:2]([O:3][H:11])[C:6](=[O:7])[H:13])([H:9])[H:10].[C:4](=[O:5])([H:8])[H:12]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],43.583171284937
[C:1]([C:2]#[C:3][O:6][C:5](=[C:4]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],66.81294954170039
[O:1]([C:2]([C-:3]1[C:4]([H:12])([H:13])[C+:5]([O:6][H:11])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],10.832195832586208
[O:1]1[C:3](=[C+:2][H:8])[N:4]=[C:5]([H:9])[N:6]1[O-:7]>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],16.608516057548997
[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5]>>[O:1]([C:2](=[C:3]=[N:4][H:7])[H:6])[H:5],88.4401937614126
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C@:2]1([H:9])[C:3](=[O:4])[C:5]([H:8])([H:10])[O:6]1)[H:7],54.4705856757611
[C:1]1([H:7])([H:8])[O:2][C@:3]1([C@@:4]1([H:10])[C-:5]=[O+:6]1)[H:9].[H:11][H:12]>>[C:1]1([H:7])([H:8])[O:2][C@:3]1([C@@:4]1([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:9],24.4138123526403
[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]=[C:2]([C:4]([C:3]([H:7])([H:8])[H:9])([H:10])[H:11])[C:5]#[C:6][H:12],45.016759986001
[C:1]([O:6][C@@:5]1([H:12])[C:3](=[C:2]([H:10])[H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],36.86172574135899
[C-:1]([O+:2]=[C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])[H:12])([H:8])[H:9].[H:10][H:11]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],3.3857613999435046
[C:1]([C:2](=[C:3]([H:10])[H:12])[O:4][H:13])([C:5]#[N:6])([H:8])[H:9].[H:7][H:11]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],87.4456817767351
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O+:3][C:4](=[C:5]=[N-:6])[H:12])[H:10])([H:7])([H:8])[H:9].[H:11][H:13],61.1650088030887
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N:1]([C-:2]=[O+:7][C:5][N:6]([H:10])[H:11])([H:8])[H:9].[N:3]#[N:4],68.0281312631121
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[C:6]=[C:7]([C:4](=[O:5])[H:12])[H:13])[H:11])([H:9])[H:10])[H:8],45.600398636461286
[C:3](=[N:4][H:10])([H:8])[H:9].[O:1]=[C:2]([C:5](=[O:6])[H:11])[H:7]>>[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7],45.024832815195296
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:3]([O:2][C:5](=[O:6])[H:10])=[O:4])([H:7])([H:8])[H:9],70.805237678877
[O:1](/[N:2]=[C:3](/[C:4]([H:8])([H:9])[H:10])[C:6]([N:5])([H:11])[H:12])[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],29.458129203454888
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[H:10][H:11].[O:1]([C+:2]([C@@:3]1([C:6](=[O:7])[H:14])[C-:4]([H:12])[N:5]1[H:13])[H:9])[H:8],79.51535332563842
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O:1]=[C:4]([C:3]#[C:2][H:7])[C:5]#[N:6],80.0555931653179
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([C@@:4]1([H:13])[O:5][C:6]([H:14])=[C:7]1[H:15])([H:11])[H:12])[H:8])([H:9])[H:10],75.4596904209803
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:6](=[C:5]=[C:3]=[O:4])[H:11])[H:10])([H:7])([H:8])[H:9],57.5703990549812
[C:3]([C:4]([C:5]([O:6][H:16])[H:15])([H:12])[H:13])([H:10])([H:11])[H:14].[O:1]([C:2]([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],44.38821530639831
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2](/[C:5](=[C:3](\[O:4][H:11])[H:10])[C:6][H:12])([H:8])[H:9])[H:7],60.405587555406505
